US08119633B2
2-(1-(3,4-Dichlorophenylsulfonyl)-3-oxo-1,2,3,4-tetrahydroquinoxalin-2-yl)acetic acid S12
Lithium hydroxide (0.041 g, 10.95 mmol) was added to a cooled solution of methyl 2-(1-(3,4-dichlorophenylsulfonyl)-3-oxo-1,2,3,4-tetrahydroquinoxalin-2-yl)acetate (2.7 g, 7.3 mmol) in THF (45 ml) and water (45 ml), and stirring was carried out for 48 h at room temperature (TLC monitoring). The solvent was removed using a rotary evaporator and the residue was taken up in water. The aqueous phase was extracted with ethyl acetate and then washed with saturated NaCl solution. The organic phase was dried over sodium sulfate and concentrated to dryness.

reactant | Lithium hydroxide | 10.95 mmol, 0.041 g | [OH-].[Li+]
reactant | methyl 2-(1-(3,4-dichlorophenylsulfonyl)-3-oxo-1,2,3,4-tetrahydroquinoxalin-2-yl)acetate | 7.3 mmol, 2.7 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(C(NC2=CC=CC=C12)=O)CC(=O)OC | C17H14Cl2N2O5S
solvent | THF | 45 ml | C1CCOC1 | C4H8O
solvent | water | 45 ml | O | H2O
product | 2-(1-(3,4-Dichlorophenylsulfonyl)-3-oxo-1,2,3,4-tetrahydroquinoxalin-2-yl)acetic acid | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(C(NC2=CC=CC=C12)=O)CC(=O)O | C16H12Cl2N2O5S
